US04977144
5-Aminoimidazole-4-carbonitrile is condensed with N-benzyl-N-phenyl-acetamide in the presence of phosphoryl chloride in acetonitrile at room temperature to yield 5-[1-(N-phenyl-N-benzylamino)ethylideneamino]-imidazole-4-carbonitrile. Such is cyclized with sodium hydride in dioxane to yield 7-amino-N-phenyl-N-benzyl-3H-imidazo[4,5-b]pyridine-5-amine. Hydrogenolysis in ethanol with palladium on charcoal yields 7-amino-N-phenyl-3H-imidazo[4,5-b]pyridine-5-amine.

reactant | 5-Aminoimidazole-4-carbonitrile | NC1=C(N=CN1)C#N | C4H4N4
reactant | N-benzyl-N-phenyl-acetamide | C(C1=CC=CC=C1)N(C(C)=O)C1=CC=CC=C1 | C15H15NO
reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | C(C)#N | C2H3N
product | 5-[1-(N-phenyl-N-benzylamino)ethylideneamino]-imidazole-4-carbonitrile | C1(=CC=CC=C1)N(CC1=CC=CC=C1)C(C)=NC1=C(N=CN1)C#N | C19H17N5
